US05849928
A mixture of 3-cyclopropyl-1-(4-pentafluorosulphanylphenyl)-propan-1,3 -dione (0.82 g) and triethylorthoformate (3.1 g) in acetic anhydride (40 ml) was heated at reflux temperature for 6 hours. The excess reagent and solvent were evaporated to give 3-cyclopropyl-2-ethoxymethylene-1-(4-pentafluorosulphanylphenyl)-propan-1,3 -dione (1.0 g) as an orange oil. This was used directly in the subsequent reaction stage.

reactant | 3-cyclopropyl-1-(4-pentafluorosulphanylphenyl)-propan-1,3 -dione | 0.82 g | C1(CC1)C(CC(=O)C1=CC=C(C=C1)S(F)(F)(F)(F)F)=O | C12H11F5O2S
reactant | triethylorthoformate | 3.1 g | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-cyclopropyl-2-ethoxymethylene-1-(4-pentafluorosulphanylphenyl)-propan-1,3 -dione | 1.0 g | C1(CC1)C(C(C(=O)C1=CC=C(C=C1)S(F)(F)(F)(F)F)=COCC)=O | C15H15F5O3S
